US07186715B2
Synthesis of 4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine
To a solution of N-boc-4-(2-bromo-phenoxy)-piperidine (13.4 g, 39.6 mmol, 1.0 eq.), piperazine (9.73 g, 113 mmol, 3.0 eq.), Pd2dba3 (1.72 g, 1.88 mmol, 0.05 eq.), BINAP (3.5 g, 5.65 mmol, 0.15 eq.) in toluene (150 mL) was added NaOtBu (5.1 g, 52.6 mmol, 1.4 eq.). The mixture was heated to 95° C. and stirred at that temperature overnight. The slurry was diluted with EtOAc and filtered through a pad of celite. The filtrate was concentrated and purified by ion exchange (SCX, 10 g) column. Further purification by flash chromatography (250 g SiO2, 40 ml/min, linear gradient 0–10% 2.0 M NH3 in MeOH/CH2Cl2 for 20 minutes and 10% 2.0 M NH3 in MeOH/CH2Cl2 for 73 minutes) afforded the final compound (12.65 g, 93%). LRMS (electrospray): 362.7 (M+1).

reactant | N-boc-4-(2-bromo-phenoxy)-piperidine | 39.6 mmol, 13.4 g, 1.0 eq. | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=C(C=CC=C1)Br | C16H22BrNO3
reactant | piperazine | 113 mmol, 9.73 g, 3.0 eq. | N1CCNCC1 | C4H10N2
reactant | BINAP | 5.65 mmol, 3.5 g, 0.15 eq. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 52.6 mmol, 5.1 g, 1.4 eq. | CC(C)(C)[O-].[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2dba3 | 1.88 mmol, 1.72 g, 0.05 eq. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine | 12.65 g, 93% | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=C(C=CC=C1)N1CCNCC1 | C20H31N3O3
